US07326699B2
cis-7-(3-Azetidin-1-ylmethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-6-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine
The title compound is prepared in analogy to Example 116 starting from 0.35 g (0.84 mmol) cis-{3-[4-amino-5-(3-benzyloxy-phenyl)-6-methyl-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutyl}-methanol and 0.328 g (1.69 mmol) p-toluenesulfonyl chloride in 3.5 ml dry pyridine, followed by 0.442 ml (6.33 mmol) trimethylenimine (Fluka, Buchs, Switzerland). Analytical HPLC: tR=9.22 min (Grad 1); ES-MS: m/eo=454.3; NMR (DMSO-d6): 8.08/s (1H), 7.25-7.5/several m's (6H), 7.02/“d” (1H); 6.93/s (1H); 6.89/“d” (1H); 5.4-6.0/b (NH2); 5.13/s (2H); 4.76/m (1H); 3.11/“t” (4H); 2.75-2.90/m (2H); 2.54/d (2H); 2.35-2.45/m (2H); 2.22/s (3H); 2.03/m (1H); 1.9-2.0/m (2H).

reactant | cis-{3-[4-amino-5-(3-benzyloxy-phenyl)-6-methyl-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutyl}-methanol | 0.84 mmol, 0.35 g | NC=1C2=C(N=CN1)N(C(=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)C)[C@H]2C[C@H](C2)CO | C25H26N4O2
reactant | p-toluenesulfonyl chloride | 1.69 mmol, 0.328 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 3.5 ml | N1=CC=CC=C1 | C5H5N
product | cis-7-(3-Azetidin-1-ylmethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-6-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | N1(CCC1)C[C@H]1C[C@H](C1)N1C(=C(C2=C1N=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2)C | C28H31N5O
